US07569563B2
2,4-Dichloro-6-methylbenzylamine hydrochloride
The preparation takes place in analogy to Example 6A from 2,4-dichloro-6-methylbenzonitrile with subsequent treatment with 4N hydrochloric acid in dioxane.

reactant | 2,4-dichloro-6-methylbenzonitrile | ClC1=C(C#N)C(=CC(=C1)Cl)C | C8H5Cl2N
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2,4-Dichloro-6-methylbenzylamine hydrochloride | Cl.ClC1=C(CN)C(=CC(=C1)Cl)C | InChI=1S/C8H9Cl2N.ClH/c1-5-2-6(9)3-8(10)7(5)4-11;/h2-3H,4,11H2,1H3;1H
